US08134001B2
In a manner similar to the method described in example 1d, 3-(4-bromo-2-formyl-phenoxy)-benzonitrile (3 g, 10 mmol) was reacted with 1,1,1,3,3,3-hexamethyldisilazane (2.1 mL, 10 mmol), n-butyllithium (2.5 M, 4 mL, 10 mmol), trimethylsilyl chloride (1.3 mL, 10 mmol), triethylamine (1.8 mL, 13 mmol) and acetyl chloride (0.92 mL, 13 mmol) to give crude 1-[5-bromo-2-(3-cyano-phenoxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 3-(4-bromo-2-formyl-phenoxy)-benzonitrile | 10 mmol, 3 g | BrC1=CC(=C(OC=2C=C(C#N)C=CC2)C=C1)C=O | C14H8BrNO2
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 10 mmol, 2.1 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 10 mmol, 2.5 M, 4 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 10 mmol, 1.3 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 13 mmol, 1.8 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 13 mmol, 0.92 mL | C(C)(=O)Cl | C2H3ClO
product | 1-[5-bromo-2-(3-cyano-phenoxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene | BrC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)OC1=CC(=CC=C1)C#N | C19H19BrN2O2Si
